US07723367B2
2-(2-methoxy-phenyl)nicotinonitrile
To a 250-mL, round-bottomed flask containing a large magnetic stir bar were added 2-chloro-3-cyanopyridine (1.39 g, 10.0 mmol), 2-methoxyphenylboronic acid (1.82 g, 12.0 mmol), and dichlorobis(triphenylphosphine)palladium(II) (351 mg, 0.50 mmol). Isopropyl alcohol (50 mL) and 2M sodium carbonate solution (50 mL) were added. The flask was stoppered and immersed in an oil bath heated to 80-90° C. The biphasic mixture was stirred vigorously and heated for 8 hours. After cooling to room temperature, ethyl acetate (50 mL) was added and the black mixture was transferred to a separatory funnel. The aqueous layer was removed and subsequently extracted with ethyl acetate (3×20 mL). The combined ethyl acetate layers were dried over magnesium sulfate, filtered, and concentrated by rotary evaporator to give a brown oil. The product was crystallized from ethyl acetate/hexanes to give 1.38 g (66%) of the title compound as a tan powder.

reactant | 2-chloro-3-cyanopyridine | 10.0 mmol, 1.39 g | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | 2-methoxyphenylboronic acid | 12.0 mmol, 1.82 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | Isopropyl alcohol | 50 mL | C(C)(C)O | C3H8O
reactant | sodium carbonate | 2M, 50 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.50 mmol, 351 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2-methoxy-phenyl)nicotinonitrile | 1.38 g, 66% | COC1=C(C=CC=C1)C1=C(C#N)C=CC=N1 | C13H10N2O
